US05502065
3-(1-BenzyIoxycarbonylpyrrolidin-2(R)-ylcarbonyl)-5-bromo-1H-indole
In a separate flask a solution of ethylmagnesium bromide (1.4 ml of a 3M solution in diethyl ether) was added dropwise over 5 minutes to a stirred solution of 5-bromoindole (0.75 g) in dry diethyl ether (18 ml). The mixture was stirred at room temperature for 10 minutes, heated under reflux for 2 hours, then cooled to -30° C. A solution of the above acid chloride of N-benzyloxycarbonyI-D-proline in dry diethyl ether (4 ml) was then added dropwise with stirring and stirring was continued for a further 1 hour. Diethyl ether (12.5 ml) and saturated aqueous sodium bicarbonate (6.5 ml) were added and the reaction was allowed to warm to room temperature. Stirring was continued for a further 10 minutes and the mixture was filtered. The solid was washed with ethyl acetate and the combined filtrate and washings were washed with water then brine and dried (MgSO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with ethyl acetate gave, after combination and evaporation of the appropriate fractions, the title compound as a foam, (0.82 g). Found: C,58.85; H,4.51; N,6.38; C21H19BrN2O3 requires: C,59.02; H,4.48; N,6.56%.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 5-bromoindole | 0.75 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | N-benzyloxycarbonyI-D-proline | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C(=O)O)CCC1 | C13H15NO4
reactant | sodium bicarbonate | 6.5 ml | C([O-])(O)=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 18 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
solvent | Diethyl ether | 12.5 ml | C(C)OCC | C4H10O
product | 3-(1-BenzyIoxycarbonylpyrrolidin-2(R)-ylcarbonyl)-5-bromo-1H-indole | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)Br | C21H19BrN2O3
